US05869464
Synthesis of 3'-O-(4-chloro-2-fluorobenzyl)-2'-deoxy-5-fluorouridine (comparative compound 1)
The title compound was prepared according to the process disclosed in Japanese Unexamined Patent Publication No. 106593/1986. The process was carried out as follows. A 5.0 g quantity of 2'-deoxy-5'-O-trityl-5-fluorouridine was dissolved in 40 ml of tetrahydrofuran. To the solution was added 856 mg of 60% sodium hydride, followed by 1 hour of stirring at room temperature. After addition of 2.58 g of 4-chloro-2-fluorobenzyl bromide, the mixture was stirred at room temperature for 2 hours. The reaction mixture was cooled to 0° C. and saturated ammonium chloride was added in excess. The tetrahydrofuran layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off at reduced pressure, and the residue was purified by silica gel column chromatography (eluate: n-hexane-ethyl acetate (3:2)), giving 5.03 g of the title compound (yield 78%).

reactant | 2'-deoxy-5'-O-trityl-5-fluorouridine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O | C28H25FN2O5
reactant | sodium hydride | 856 mg | [H-].[Na+]
reactant | 4-chloro-2-fluorobenzyl bromide | 2.58 g | ClC1=CC(=C(CBr)C=C1)F | C7H5BrClF
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3'-O-(4-chloro-2-fluorobenzyl)-2'-deoxy-5-fluorouridine | 5.03 g, yield 78% | ClC1=CC(=C(CO[C@H]2C[C@@H](O[C@@H]2CO)N2C(=O)NC(=O)C(=C2)F)C=C1)F | C16H15ClF2N2O5
